US05977178
N-((R)-2-Benzyloxy-1-(N-methyl-N-((1R)-1-methylcarbamoyl-2-phenylethyl)carbamoyl)ethyl)N-methylcarbamic acid tert-butyl ester (0.23 g; 0.476 mmol) was dissolved in methylene chloride (3 mL) and trifluoroacetic acid (3 mL) was added. The reaction mixture was stirred for 10 min at room temperature. Methylene chloride (50 mL), an aqueous solution of sodium hydrogen carbonate/sodium carbonate (pH 9) and sodium hydrogen carbonate (solid) were added to the reaction mixture until pH 9. The organic phase was dried (magnesium sulfate) and evaporated in vacuo to afford 0.182 g of (2R)-3-Benzyloxy-N-methyl-2-(methylamino)-N-((1R)-1-(methylcarbamoyl)-2-phenylethyl)propionamide.

reactant | N-((R)-2-Benzyloxy-1-(N-methyl-N-((1R)-1-methylcarbamoyl-2-phenylethyl)carbamoyl)ethyl)N-methylcarbamic acid tert-butyl ester | 0.476 mmol, 0.23 g | C(C)(C)(C)OC(N(C)[C@H](COCC1=CC=CC=C1)C(N([C@H](CC1=CC=CC=C1)C(NC)=O)C)=O)=O | C27H37N3O5
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate sodium carbonate | pH 9 | C(O)([O-])=O.[Na+].C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | (2R)-3-Benzyloxy-N-methyl-2-(methylamino)-N-((1R)-1-(methylcarbamoyl)-2-phenylethyl)propionamide | 0.182 g | C(C1=CC=CC=C1)OC[C@H](C(=O)N([C@H](CC1=CC=CC=C1)C(NC)=O)C)NC | C22H29N3O3
